US08017611B2
3-(1,3-benzoxazol-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine (400 mg), tert-butyl 4-(4-bromo-5-methyl-pyrazol-1-yl)piperidine-1-carboxylate (371 mg), tris(dibenzylideneacetone)dipalladium (49 mg), tricyclohexylphosphine (30 mg) and potassium phosphate (389 mg, 1.83 mmol) in dioxane (2.4 ml) and water (0.4 ml) were stirred at 100° C. for 3 h under argon. The reaction mixture was filtered and purified by preparative HPLC using a Waters X-Terra reverse-phase column (C-18, 5 micron silica, 19 mm diameter, 100 mm length, flow rate of 40 ml/min) and decreasingly polar mixtures of water (containing 0.2% ammonium carbonate) and acetonitrile as eluent. The fractions containing the desired compound were evaporated to dryness to afford tert-butyl 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-5-methyl-pyrazol-1-yl]piperidine-1-carboxylate (214 mg). NMR Spectrum: (DMSOd6) 1.43 (s, 9H), 1.83-1.92 (m, 4H), 2.42 (s, 3H), 2.95 (bs, 2H), 4.02-4.14 (m, 2H), 4.39-4.48 (m, 1H), 7.42-7.49 (m, 2H), 7.66 (s, 1H), 7.67 (bs, 2H), 7.79 (d, 1H), 7.84 (d, 1H), 8.22 (d, 1H), 8.29 (d, 1H); Mass spectrum: M+H+ 475 TFA (1 ml) was added to a solution of tert-butyl 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-5-methyl-pyrazol-1-yl]piperidine-1-carboxylate (126 mg) in dichloromethane (1 ml). The solution was stirred at 25° C. for 1 hour. After evaporation of the solvents, the crude mixture was diluted in dichloromethane and 7N methanolic ammonia was added. After evaporation of the solvents, the residue was purified by flash chromatography on silica gel eluting with 10% methanol in dichloromethane and 10 to 25% methanolic ammonia (7N) in dichloromethane. The solvent was evaporated to dryness and triturated in acetonitrile to afford 3-(1,3-benzoxazol-2-yl)-5-[5-methyl-1-(4-piperidyl)pyrazol-4-yl]pyridin-2-amine (66 mg). NMR Spectrum: (DMSOd6) 1.79-1.87 (m, 2H), 1.90-2.01 (m, 2H), 2.40 (s, 3H), 2.65-2.75 (m, 2H), 3.07-3.15 (m, 2H), 4.23-4.33 (m, 1H), 7.40-7.49 (m, 2H), 7.65 (s, 1H), 7.67 (bs, 2H), 7.79 (dd, 1H), 7.84 (dd, 1H), 8.21 (d, 1H), 8.29 (d, 1H); Mass spectrum: M+H+ 375.

reactant | tert-butyl 4-[4-[6-amino-5-(1,3-benzoxazol-2-yl)-3-pyridyl]-5-methyl-pyrazol-1-yl]piperidine-1-carboxylate | 126 mg | NC1=C(C=C(C=N1)C=1C=NN(C1C)C1CCN(CC1)C(=O)OC(C)(C)C)C=1OC2=C(N1)C=CC=C2 | C26H30N6O3
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 3-(1,3-benzoxazol-2-yl)-5-[5-methyl-1-(4-piperidyl)pyrazol-4-yl]pyridin-2-amine | 66 mg | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)C=2C=NN(C2C)C2CCNCC2)N | C21H22N6O
